US05532236
c. 8-(1H-Imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione
To a solution of 0.5 g (~1.89 mmol) 8-fluoro-7-nitro[1,2,4]triazolo[4.3-a]quinoxaline-1,4(2H,5H)-dione in 10 ml dry N,N-dimethylformamide was added 0.4 g (~5.9 mmol) imidazole. The reaction mixture was stirred at 120° C. for 2h. Evaporation in vacuo gave the title compound as an oil, which was solidified by stirring with water. Yield: 0.34 g (58%). M.p.>300° C. decomp.

reactant | 8-fluoro-7-nitro[1,2,4]triazolo[4.3-a]quinoxaline-1,4(2H,5H)-dione | ~1.89 mmol, 0.5 g | FC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C9H4FN5O4
reactant | imidazole | ~5.9 mmol, 0.4 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-(1H-Imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | N1(C=NC=C1)C1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C12H7N7O4
